US07989444B2
Preparation 43: 1,1-dimethylethyl 7-amino-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-dimethylethyl 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (3.25 g) was hydrogenated for 3 h under atmospheric pressure at 25° C. in the presence of 10% Pd/C (0.32 g) in MeOH (130 ml). The catalyst was removed by filtration, the solvent evaporated under reduced pressure and the resulting residue was purified by flash chromatography over silica gel (eluting with 40% ethyl acetate in hexane) to give the title compound (2.55 g).

reactant | 1,1-dimethylethyl 7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.25 g | [N+](=O)([O-])C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H20N2O4
solvent | MeOH | 130 ml | CO | CH4O
catalyst | Pd/C | 0.32 g | [Pd] | Pd
product | 1,1-dimethylethyl 7-amino-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 2.55 g | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H22N2O2
